US04939137
4-[2-[4-[Bis(4-fluorophenyl)methylene]piperidin-1-yl]ethyl]-3,4,5,7,8,9-hexahydrothieno[4,3,2-de]pyrimidine-3,5,9-trione
The title compound was prepared by starting with 3-[2-[4-(bis(4-fluorophenyl)methylene]piperidin-1-yl]ethyl]thieno[3,4-d]pyrimidine-2,4-dione. This material (7.48 g, 16 mmol) was reacted with methyl acrylate as described in Example 1 to produce 5.48 g (62%) of methyl 3-[3-[2-[4-[bis(4-fluorophenyl)methylene]piperidin-1-yl]ethyl]-2,4-dioxothieno[3,4-d]pyrimidin-1-yl]propanoate as a cream-colored solid after recrystallization from CH2Cl2 /ether/hexane, mp 111°-114° C.

reactant | 3-[2-[4-(bis(4-fluorophenyl)methylene]piperidin-1-yl]ethyl]thieno[3,4-d]pyrimidine-2,4-dione | FC1=CC=C(C=C1)C(=C1CCN(CC1)CCN1C(NC=2C(C1=O)=CSC2)=O)C2=CC=C(C=C2)F | C26H23F2N3O2S
reactant | methyl acrylate | C(C=C)(=O)OC | C4H6O2
product | methyl 3-[3-[2-[4-[bis(4-fluorophenyl)methylene]piperidin-1-yl]ethyl]-2,4-dioxothieno[3,4-d]pyrimidin-1-yl]propanoate | 5.48 g, 62% | FC1=CC=C(C=C1)C(=C1CCN(CC1)CCN1C(N(C=2C(C1=O)=CSC2)CCC(=O)OC)=O)C2=CC=C(C=C2)F | C30H29F2N3O4S
